US07368453B2
Step 1. Synthesis of Cis-2,6-Dimethyl-piperazin-1-ol Hydrochloride
Cis-3,5-Dimethyl-4-(3-oxo-butyl)-piperazine-1-carboxylic acid tert-butyl ester (1.00 g) in chloroform (40 mL) was treated with m-chloroperbenzoic acid (77%, 0.97 g) at 0° C. The solution was allowed to warm to room temperature and stirred overnight. The reaction mixture was then cooled to 0° C., filtered to remove precipitates, washed with saturated aqueous sodium bicarbonate, filtered through a plug of silica gel and concentrated. The residue was taken up in a 1:1 mixture of DCM and MeOH and treated with an excess of 4.0 M HCl/dioxane. The reaction mixture was stirred overnight and then purified by column chromatography (0 to 10% MeOH:DCM) to yield 50 mg of the title compound. ESMS (0.41 minutes, (M+1) 131.13, Method E).

reactant | Cis-3,5-Dimethyl-4-(3-oxo-butyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.00 g | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)CCC(C)=O)C | C15H28N2O3
reactant | m-chloroperbenzoic acid | 0.97 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | Cis-2,6-Dimethyl-piperazin-1-ol Hydrochloride | 50 mg | Cl.C[C@@H]1N([C@@H](CNC1)C)O | InChI=1S/C6H14N2O.ClH/c1-5-3-7-4-6(2)8(5)9;/h5-7,9H,3-4H2,1-2H3;1H/t5-,6+;
